US07842685B2
Reaction of 2,6-dimethyl-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)benzaldehyde (29.3 mg, 76 μmol) and azetidine (18 μL, 267 μmol) according to Reference R and the general procedure for reductive amination gave 2-(4-(azetidin-1-ylmethyl)-3,5-dimethylphenyl)-5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine as a light yellow solid. MS (ESI) m/z: Calculated: 425.2; Observed: 426.1 (M++1). 3-(Azetidin-1-yl)-N-(2,6-dimethyl-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)benzyl)propan-1-amine was also obtained from this reaction as a light yellow solid. MS (ESI) m/z: Calculated: 482.3; Observed: 483.2 (M++1).

reactant | 2,6-dimethyl-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)benzaldehyde | 76 μmol, 29.3 mg | CC1=C(C=O)C(=CC(=C1)C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1)C | C24H20N2OS
reactant | azetidine | 267 μmol, 18 μL | N1CCC1 | C3H7N
product | 2-(4-(azetidin-1-ylmethyl)-3,5-dimethylphenyl)-5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine | N1(CCC1)CC1=C(C=C(C=C1C)C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1)C | C27H27N3S
